US08110584B2
[2,1,3]-benzoxadiazol-5-yl(2-oxa-5azabicyclo[2.2.1]hept-5-yl)methanone
The title compound was prepared from 2-aza-5-oxabicyclo[2.2.1]heptane and [2,1,3]-benzoxadiazole-5-carbonylchloride as described for Example 7: mp=102-104° C., LC-MS, MH+=246; 1H NMR (300 MHz, CDCl3) δ 7.98-7.90 (m, 2H), 7.58 (dd, J=1.2 and 9.3 Hz, 1H), 5.08 and 4.78 (s, total 1H), 4.66 and 4.47 (s, total 1H), 4.05 (m, 1H), 3.89 (m, 1H), 3.73-3.63 (m, 1H), 3.52 (s, 1H), 2.06-1.95 ppm (m, 2H).

reactant | 2-aza-5-oxabicyclo[2.2.1]heptane | C12NCC(OC1)C2 | C5H9NO
reactant | [2,1,3]-benzoxadiazole-5-carbonylchloride | N=1ON=C2C1C=CC(=C2)C(=O)Cl | C7H3ClN2O2
product | [2,1,3]-benzoxadiazol-5-yl(2-oxa-5azabicyclo[2.2.1]hept-5-yl)methanone | N=1ON=C2C1C=CC(=C2)C(=O)N2C1COC(C2)C1 | C12H11N3O3
